US06313311B1
3-(1H-Imidazol-4-yl)-6,7-dimethylindan-5-ol
A stirred mixture of 4-(6-methoxy-4,5-dimethylindan-1-yl)-1H-imidazole hydrochloride (0.29 g) and hydrobromic acid (15 ml) is heated under reflux for 40 minutes. The cooled reaction mixture is poured into water and is made basic with ammonium hydroxide solution. The product is extracted into ethyl acetate which is washed with water, dried with sodium sulfate and evaporated to dryness. The crude product is purified by flash chromatography and crystallized from ethyl acetate. M.p. 198-202° C.

reactant | 4-(6-methoxy-4,5-dimethylindan-1-yl)-1H-imidazole hydrochloride | 0.29 g | Cl.COC1=C(C(=C2CCC(C2=C1)C=1N=CNC1)C)C
reactant | hydrobromic acid | 15 ml | Br | BrH
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | water | O | H2O
product | 3-(1H-Imidazol-4-yl)-6,7-dimethylindan-5-ol | N1C=NC(=C1)C1CCC2=C(C(=C(C=C12)O)C)C | C14H16N2O
